US08664379B2
To a mixture of 95% dry sodium hydride (48 mg, 2.00 mmol) in anhydrous N,N-dimethylformamide (10 mL) at room temperature was added a solution of 6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-2(1H)-one (291 mg, 1.00 mmol). The reaction mixture was stirred for 30 minutes under an atmosphere of dry N2, followed by addition of a solution of 2-bromoacetonitrile (480 mg, 4.00 mmol) in N,N-dimethylformamide (2 mL). The reaction mixture was stirred at room temperature until the majority of the starting material was converted (as checked by LCMS), then quenched by addition of methanol (10 mL). The mixture was concentrated under reduced pressure, and the residue was subjected to reverse phase HPLC with a gradient of acetonitrile/water (2% to 98%) to afford 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetonitrile (compound No. 90) (307 mg, 0.93 mmol, 93%). LCMS mz 331.0 (M+H), 353.0 (M+Na), anal HPLC>98% in purity. 1H NMR (400 MHz; CDCl3) δ 7.69 (m, 4H); 7.57 (dd, J=8.4 and 2.1 Hz, 1H); 7.47 (d, J=3.0 Hz, 1H); 7.16 (d, J=8.2 Hz, 1H); 6.90 (s, 2H); 3.05 (m, 2H); 2.79 (m, 2H).

reactant | sodium hydride | 2.00 mmol, 48 mg | [H-].[Na+]
reactant | 6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-2(1H)-one | 1.00 mmol, 291 mg | FC(C1=CC=C(C=C1)C=1C=C2CCC(NC2=CC1)=O)(F)F | C16H12F3NO
reactant | 2-bromoacetonitrile | 4.00 mmol, 480 mg | BrCC#N | C2H2BrN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-(2-oxo-6-(4-(trifluoromethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)acetonitrile | O=C1N(C2=CC=C(C=C2CC1)C1=CC=C(C=C1)C(F)(F)F)CC#N | C18H13F3N2O
